US05502054
Under a nitrogen atmosphere, a stirred solution of 21.6 grams (0.10 mole) of 4-chlorophenylmagnesium bromide (1M in diethyl ether) in 100 mL of tetrahydrofuran was cooled to -15° C., and 0.7 gram (catalyst) of copper(I) bromide was added in one portion. Upon completion of addition, 9.7 mL (0.10 mole) of 3-methyl-2-butenal was added dropwise during a 1.5 hour period, while maintaining the reaction mixture temperature below -10° C. Upon completion of addition, the reaction mixture was allowed to warm to ambient temperature, where it stirred for about 18 hours. The reaction mixture was then poured into 300 mL of water and extracted with two 200 mL portions of diethyl ether. The combined extracts were dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residue. The residue was subjected to column chromatography on silica gel, using 50% petroleum ether in methylene chloride. The appropriate product-containing fractions were combined and concentrated under reduced pressure, yielding 7.6 grams of 3-(4-chlorophenyl)-3-methylbutyraldehyde. The NMR spectrum was consistent with the proposed structure.

reactant | 4-chlorophenylmagnesium bromide | 0.10 mole, 1M, 21.6 grams | ClC1=CC=C(C=C1)[Mg]Br
reactant | 3-methyl-2-butenal | 0.10 mole, 9.7 mL | CC(=CC=O)C | C5H8O
reactant | water | 300 mL | O | H2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
catalyst | copper(I) bromide | 0.7 gram | [Cu]Br
product | 3-(4-chlorophenyl)-3-methylbutyraldehyde | 7.6 grams | ClC1=CC=C(C=C1)C(CC=O)(C)C | C11H13ClO
